US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpyrrolidin-3-yloxycarbonyl)amino]benzamide
Using a similar procedure to that described in Example 9-C, N-(5-chloropyridin-2-yl)-2-[(pyrolidin-3-yloxycarbonyl)amino]benzamide trifluoroacetate (100 mg, 0.211 mmol), cyclohexanone (0.11 mL, 1.05 mmol), and sodium cyanoborohydride (53 mg, 0.84 mmol) yielded 90 mg (96%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-[(pyrolidin-3-yloxycarbonyl)amino]benzamide trifluoroacetate | 0.211 mmol, 100 mg | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CNCC1)=O
reactant | cyclohexanone | 1.05 mmol, 0.11 mL | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 0.84 mmol, 53 mg | C(#N)[BH3-].[Na+]
product | N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpyrrolidin-3-yloxycarbonyl)amino]benzamide | 90 mg, 96% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CN(CC1)C1CCCCC1)=O | C23H27ClN4O3
